US07230017B2
Allyl 2-acetyl-3-(4-cyanophenyl)-5-oxo-5-{[3-(trifluoromethyl)phenyl]amino}-pentanoate
To a solution of 4-formylbenzonitrile (10.00 g, 76.3 mmol), allyl 3-oxobutanoate (10.84 g, 76.3 mmol), 2,2-dimethyl-1,3-dioxane-4,6-dione (10.99 g, 76.3 mmol) and 3-(trifluoromethyl)aniline (12.29 g, 76.3 mmol) in 150 ml THF are added 4.00 g potassium fluoride on alumina (40 wt.-%). The reaction mixture is stirred at reflux temperature overnight. The solvent is removed in vacuo, the residue is dissolved in methylene chloride and then purified by column chromatography using a methylene chloride/ethyl acetate gradient as eluent.

reactant | 4-formylbenzonitrile | 76.3 mmol, 10.00 g | C(=O)C1=CC=C(C#N)C=C1 | C8H5NO
reactant | allyl 3-oxobutanoate | 76.3 mmol, 10.84 g | O=C(CC(=O)OCC=C)C | C7H10O3
reactant | 2,2-dimethyl-1,3-dioxane-4,6-dione | 76.3 mmol, 10.99 g | CC1(OC(CC(O1)=O)=O)C | C6H8O4
reactant | 3-(trifluoromethyl)aniline | 76.3 mmol, 12.29 g | FC(C=1C=C(N)C=CC1)(F)F | C7H6F3N
reactant | potassium fluoride on alumina | 4.00 g | [F-].[K+]
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | Allyl 2-acetyl-3-(4-cyanophenyl)-5-oxo-5-{[3-(trifluoromethyl)phenyl]amino}-pentanoate | C(C)(=O)C(C(=O)OCC=C)C(CC(NC1=CC(=CC=C1)C(F)(F)F)=O)C1=CC=C(C=C1)C#N | C24H21F3N2O4
